US07858654B2
5-(2-Ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid was subject to the amide coupling reaction described in step 3 of Example 3, but replacing C-(5-methyl-pyrazin-2-yl)-methylamine with 1-pyrazin-2-yl-ethylamine, to give 5-(2-ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide, MS (M+H)=412.

reactant | 5-(2-Ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid | C(C)C=1N(C=CN1)C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O | C19H18N2O2
reactant | 1-pyrazin-2-yl-ethylamine | N1=C(C=NC=C1)C(C)N | C6H9N3
product | 5-(2-ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide | N1=C(C=NC=C1)C(C)NC(=O)C=1C=C(C=C(C1)N1C(=NC=C1)CC)C1=CC=C(C=C1)C | C25H25N5O
